US07399759B2
2-[[6-(4-Oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]methyl]-1H-isoindole-1,3(2H)-dione
6-[(1,3-Dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]-2-pyridinecarbonitrile (1.25 g, 4.7 mmol) and methyl thiosalicylate (1.59 g, 9.4 mmol) were dissolved in toluene (10 ml), and triethylamine (5.0 ml, 35.8 mmol) was added thereto. The reaction mixture was refluxed for 15 hrs. After cooling, the precipitates were collected by filtration and recrystallized from hexane-chloroform to give the titled compound (1.48 g, 78%) as white crystals.

reactant | 6-[(1,3-Dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]-2-pyridinecarbonitrile | 4.7 mmol, 1.25 g | O=C1N(C(C2=CC=CC=C12)=O)CC1=CC=CC(=N1)C#N | C15H9N3O2
reactant | methyl thiosalicylate | 9.4 mmol, 1.59 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | triethylamine | 35.8 mmol, 5.0 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 2-[[6-(4-Oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]methyl]-1H-isoindole-1,3(2H)-dione | 1.48 g, 78% | O=C1N=C(SC2=C1C=CC=C2)C2=CC=CC(=N2)CN2C(C1=CC=CC=C1C2=O)=O | C22H13N3O3S
